US05145869
Into a solution of methyl 5-(3,4-dichlorophenylsulfinyl)-4-[N,N-bis(3-phenylpropyl)carbamoyl]pentanoate (220 mg) in dry dichloromethane (20 ml) were added portions of m-chloroperbenzoic acid (80%, 120 mg) with stirring at 0° C. After stirring at room temperature for 4 hours, sodium sulfite was added. The reaction mixture was washed with a saturated sodium bicarbonate solution and water, dried over MgSO4, and concentrated in vacuo. The residue was purified by flash column chromatography on silica by eluting with chloroform/ethanol (50:1) to give 200 mg of methyl 5-(3,4-dichlorophenylsulfonyl)-4-[N,N-bis(3-phenylpropyl)carbamoyl]pentanoate as an oil.

reactant | methyl 5-(3,4-dichlorophenylsulfinyl)-4-[N,N-bis(3-phenylpropyl)carbamoyl]pentanoate | 220 mg | ClC=1C=C(C=CC1Cl)S(=O)CC(CCC(=O)OC)C(N(CCCC1=CC=CC=C1)CCCC1=CC=CC=C1)=O | C31H35Cl2NO4S
reactant | m-chloroperbenzoic acid | 120 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | methyl 5-(3,4-dichlorophenylsulfonyl)-4-[N,N-bis(3-phenylpropyl)carbamoyl]pentanoate | 200 mg | ClC=1C=C(C=CC1Cl)S(=O)(=O)CC(CCC(=O)OC)C(N(CCCC1=CC=CC=C1)CCCC1=CC=CC=C1)=O | C31H35Cl2NO5S
